************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECE4130_Project
* Top Cell Name: SRAM_Column
* View Name:     schematic
* Netlisted on:  Nov 20 23:38:08 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: ECE4130_Project
* Cell Name:    SRAM
* View Name:    schematic
************************************************************************

.SUBCKT SRAM !BL BL WL
*.PININFO WL:I !BL:B BL:B
MM4 gnd! net9 net2 gnd! NMOS_VTL W=200n L=50n
MM5 net9 net2 gnd! gnd! NMOS_VTL W=200n L=50n
MM3 net2 WL !BL gnd! NMOS_VTL W=175n L=50n
MM2 BL WL net9 gnd! NMOS_VTL W=175n L=50n
MM1 vdd! net9 net2 vdd! PMOS_VTL W=100n L=50n
MM0 net9 net2 vdd! vdd! PMOS_VTL W=100n L=50n
.ENDS

************************************************************************
* Library Name: ECE4130_Project
* Cell Name:    SRAM_Column
* View Name:    schematic
************************************************************************

.SUBCKT SRAM_Column !BL BL WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 
+ WL12 WL13 WL14 WL15 clk
*.PININFO clk:I !BL:B BL:B WL0:B WL1:B WL2:B WL3:B WL4:B WL5:B WL6:B WL7:B 
*.PININFO WL8:B WL9:B WL10:B WL11:B WL12:B WL13:B WL14:B WL15:B
XI17 !BL BL WL8 / SRAM
XI16 !BL BL WL12 / SRAM
XI15 !BL BL WL14 / SRAM
XI14 !BL BL WL15 / SRAM
XI13 !BL BL WL13 / SRAM
XI12 !BL BL WL10 / SRAM
XI11 !BL BL WL11 / SRAM
XI10 !BL BL WL9 / SRAM
XI9 !BL BL WL4 / SRAM
XI8 !BL BL WL6 / SRAM
XI7 !BL BL WL7 / SRAM
XI6 !BL BL WL5 / SRAM
XI5 !BL BL WL2 / SRAM
XI4 !BL BL WL3 / SRAM
XI3 !BL BL WL1 / SRAM
XI0 !BL BL WL0 / SRAM
MM2 vdd! clk !BL vdd! PMOS_VTL W=400n L=50n
MM1 BL clk vdd! vdd! PMOS_VTL W=400n L=50n
MM0 !BL clk BL vdd! PMOS_VTL W=400n L=50n
.ENDS

